US04950674
7-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-2H-1-benzopyran-2-one
This compound was prepared according to the procedure of Example 1. A mixture of 3.0 g (0.01 mole) of α,α-bis(p-fluorophenyl)-4-piperidinemethanol, 2.4 g (0.01 mole of 7-(3-chloropropoxy)2H-1-benzopyran-2-one, 5.3 g (0.05 mole) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 100 ml of 1-butanol gave 3.6 g (71%) of pale yellow crystals, m.p. 99°-120° C. with decomposition.

reactant | α,α-bis(p-fluorophenyl)-4-piperidinemethanol | 0.01 mole, 3.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 7-(3-chloropropoxy)2H-1-benzopyran-2-one | 0.01 mole | ClCCCOC1=CC2=C(C=CC(O2)=O)C=C1 | C12H11ClO3
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 7-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-2H-1-benzopyran-2-one | 3.6 g, 71% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC2=C(C=CC(O2)=O)C=C1)(O)C1=CC=C(C=C1)F | C30H29F2NO4
